2137-10-19 07:39:00 Physician Attending Progress Note
Chief Complaint: Hypotension/[** 1054**]
   HPI:
    56 F w/ h/o HCV cirrhosis, Grade I varices, a/w hypotension and HCT
   19, c/b portal gastropathy, posterior epistaxis.
   24 Hour Events:
 MULTI LUMEN - START [**2137-10-18**] 09:00 AM
 INVASIVE VENTILATION - START [**2137-10-18**] 10:43 AM
 TRANSTHORACIC ECHO - At [**2137-10-18**] 11:53 AM
 CORDIS/INTRODUCER - START [**2137-10-18**] 11:53 AM
 EKG - At [**2137-10-18**] 01:00 PM
 ENDOSCOPY - At [**2137-10-18**] 01:30 PM
 ARTERIAL LINE - START [**2137-10-18**] 04:00 PM
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Metronidazole - [**2137-10-19**] 04:14 AM
   Meropenem - [**2137-10-19**] 05:53 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-10-19**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 104 (69 - 109) bpm
   BP: 107/58(74) {28/18(22) - 113/65(338)} mmHg
   RR: 21 (8 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 64 Inch
   CVP: 329 (0 - 335)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  4,477 mL
                                                                  3,017 mL
   PO:
   TF:
   IVF:
                                                                    606 mL
                                                                    485 mL
   Blood products:
                                                                  3,770 mL
                                                                  2,333 mL
   Total out:
                                                                    675 mL
                                                                    800 mL
   Urine:
                                                                     75 mL
   NG:
                                                                    600 mL
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                  3,802 mL
                                                                  2,217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.37/43/90.[**Numeric Identifier 128**]/24/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General: Intubated, sedated.
   HEENT: PERRL. Blood draining from both nostrils.
   CV: Regular S1,S2. No m/r/g.  Physiologic splitting of the second heart
   sound not appreciated.
   Lungs: b/l CTA anteriorly
   Abdomen: +bs. Distended. Tympanitic.  m
   Ext: 1+LE edema.
   Skin:  Warm, well perfused.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   73 K/uL
   101 mg/dL
   3.9 mg/dL
   24 mEq/L
   5.0 mEq/L
   59 mg/dL
   114 mEq/L
   156 mEq/L
   20.9 %
   7.2 K/uL
        [image002.jpg]
                            [**2137-10-16**]  11:25 AM
                            [**2137-10-16**]  04:53 PM
                            [**2137-10-16**]  08:31 PM
                            [**2137-10-18**]  09:00 AM
                            [**2137-10-18**]  11:55 AM
                            [**2137-10-18**]  04:01 PM
                            [**2137-10-18**]  08:41 PM
                            [**2137-10-18**]  08:46 PM
                            [**2137-10-19**]  04:00 AM
                            [**2137-10-19**]  04:09 AM
   WBC
   9.3
   6.9
   7.9
   7.2
   Hct
   24.1
   24.1
   23.7
   18.7
   25.9
   22.7
   20.1
   19
   20.9
   Plt
   63
   55
   46
   73
   Cr
   2.5
   2.1
   3.7
   3.9
   TropT
   0.24
   TCO2
   28
   26
   Glucose
   146
   193
   122
   101
   Other labs: PT / PTT / INR:19.9/39.0/1.8, CK / CKMB /
   Troponin-T:798//0.24, ALT / AST:[**Telephone/Fax (1) 10951**], Alk Phos / T Bili:127/28.9,
   Fibrinogen:152 mg/dL, Lactic Acid:6.1 mmol/L, Albumin:3.9 g/dL,
   LDH:1261 IU/L, Ca++:10.7 mg/dL, Mg++:3.5 mg/dL, PO4:6.4 mg/dL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Right arm hematoma
 HEPATIC ENCEPHALOPATHY
 HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 COAGULOPATHY
   Problems:
   1.[**Name (NI) **]
 unclear etiology.  Given inc CVP as measured, no
   respirophasic variation, and ultrasound visualization R sided filing
   pressures appear to be high.  No evidence of PE given nl RV, ECG not
   c/w ischemia.  ? component of sepsis, particularly given abdominal
   distention.  Also may be volume o/l resulting in intraventricular
   dependence.   Remains vasopressor dependent today but on stable dose
   today.  We remain concerned because her lactate has trended up despite
   dopamine stability.  If CvO2 stable, would raise concern for ischemic
   bowel.
   -f/u lactate
   -f/u cvo2
   -broad spectrum abx coverage for possible sepsis incl MRSA, VRE, and
   pseudomonas.  Primary concern though would be enteric organisms.
   -check cortisol level.
   -cont dopamine for vasopressor support, titrated to MAP>55.
   -linezolid/meropenem/flagyl
   2. Respiratory Failure
 FiO2 at 60% and low P/F ratio concerning that
   patient may be developing ARDS. [**Month (only) 60**] need to transition to low tidal
   volume ventilation.
   -check CXR
   -attempt to wean FiO
   3.  ARF - ? Hypovolemia vs HRS.
   -urine lytes
   -renal consult
   3. Abdominal distention
CT w/o evidence of bowel obstruction or
   ischemia.
   -f/u bladder pressures
   -f/u GI output
   4. DIC - ? [**12-24**] sepsis, as above.  Support, f/u fibrinogen, coags
   5. Epistaxis -? If posterior.  [**Month (only) 60**] need further packing as continues to
   ooze.  Appreciate ENT evaluation.
   -consult heme.
   6.  Hypernatremia
 free water bolus down OGT
   7. Cirrhosis/hepatic failure
   ICU Care
   Nutrition: Awaiting evidence of GI motility
   Glycemic Control:
   Lines / Intubation:
   Cordis/Introducer - [**2137-10-18**] 11:53 AM
   Triple lumen CVL
   Comments:
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 40 minutes.
   ------ Protected Section ------
   Patient admitted to MICU with hypotension, respiratory failure,
   cirrhosis, GI bleed.  Significant UGI bleed. Endoscopy showed portal
   gastropathy. Patient has had ongoing oozing from nasopharynx. Hct
   remains marginal despite transfusions. Renal function is worsening
   consistent with acute renal failure (intrarenal origin). Hypotension
   persists despite high CVP. Echocardiogram shows pulmonary hypertension,
   probably secondary to hepato-pulmonary syndrome. Continues on dopamine
   at 5 micrograms/kg/min. Lactate remains high with relatively normal
   mixed venous O2 sat.
   On exam, patient intubated and sedated. Chest with scattered rhonchi.
   Hyperdynamic precordium. II/VI systolic murmur at right sternal border.
   No gallop. Abdomen distended and firm. Extremities cool.
   Patient with multi-system organ failure. Ongoing respiratory failure,
   although oxygenation stable. Will reduce FIO2 tonight. Continues to
   require dopamine and lactate levels remain elevated; this may reflect
   inability of liver to metabolize lactate or ongoing hypoperfusion. The
normal
 mixed venous O2 sat may be low for a patient with cirrhosis
   who typically has AV shunting. Despite blood in gut and lactulose,
   patient is not passing stool; concern for possible ischemic bowel.
   Creat rising; patient receiving hemodialysis now.
   Prognosis is extremely poor.
   Critical Care 30 mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 25**], MD
   on:[**2137-10-19**] 18:41 ------

2137-10-20 08:58:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    56 F w/ h/o HCV cirrhosis, Grade I varices, a/w hypotension and HCT
   19, c/b portal gastropathy, posterior epistaxis.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2137-10-19**] 02:00 PM
   Started on CVVH
   Rec'd 3U PRBC
   FFP 2
   Plt 1
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Linezolid - [**2137-10-20**] 01:03 AM
   Metronidazole - [**2137-10-20**] 04:13 AM
   Meropenem - [**2137-10-20**] 06:17 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Dopamine - 5 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-10-20**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 103 (93 - 106) bpm
   BP: 116/54(75) {84/41(54) - 116/58(318)} mmHg
   RR: 24 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 64 Inch
   CVP: 33 (23 - 33)mmHg
   Total In:
                                                                  7,410 mL
                                                                  4,421 mL
   PO:
   TF:
   IVF:
                                                                  3,669 mL
                                                                  2,524 mL
   Blood products:
                                                                  2,882 mL
                                                                  1,717 mL
   Total out:
                                                                  3,339 mL
                                                                  2,647 mL
   Urine:
                                                                     26 mL
   NG:
                                                                  1,150 mL
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                  4,071 mL
                                                                  1,774 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/40/118/20/-5
   Ve: 9.9 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General: Intubated, sedated.
   HEENT: PERRL. Blood draining from both nostrils.
   CV: Regular S1,S2. No m/r/g.  Physiologic splitting of the second heart
   sound not appreciated.
   Lungs: b/l CTA anteriorly
   Abdomen: +bs. Distended. Tympanitic.  m
   Ext: 1+LE edema.
   Skin:  Warm, well perfused.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   75 K/uL
   127 mg/dL
   3.3 mg/dL
   20 mEq/L
   4.3 mEq/L
   43 mg/dL
   104 mEq/L
   143 mEq/L
   25.8 %
   8.5 K/uL
        [image002.jpg]
                            [**2137-10-19**]  03:23 PM
                            [**2137-10-19**]  03:40 PM
                            [**2137-10-19**]  05:21 PM
                            [**2137-10-19**]  08:46 PM
                            [**2137-10-19**]  09:00 PM
                            [**2137-10-20**]  03:13 AM
                            [**2137-10-20**]  03:26 AM
                            [**2137-10-20**]  04:55 AM
                            [**2137-10-20**]  08:30 AM
                            [**2137-10-20**]  08:45 AM
   WBC
   6.1
   8.5
   Hct
   24.1
   23.3
   19.7
   25.8
   Plt
   47
   81
   75
   Cr
   4.0
   3.6
   3.3
   TCO2
   26
   25
   25
   22
   Glucose
   111
   123
   163
   170
   127
   Other labs: PT / PTT / INR:21.3/45.5/2.0, CK / CKMB /
   Troponin-T:798//0.24, ALT / AST:[**Telephone/Fax (1) 10951**], Alk Phos / T Bili:127/28.9,
   Fibrinogen:135 mg/dL, Lactic Acid:5.3 mmol/L, Albumin:3.9 g/dL,
   LDH:1261 IU/L, Ca++:10.5 mg/dL, Mg++:2.6 mg/dL, PO4:6.0 mg/dL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Right arm hematoma
 HEPATIC ENCEPHALOPATHY
 HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 COAGULOPATHY
   Problems:
   1.[**Name2 (NI) **]
 likely septic.  Given inc CVP as measured, no respirophasic
   variation, and ultrasound visualization R sided filing pressures appear
   to be high.  No evidence of PE given nl RV, ECG not c/w ischemia.  ?
   component of sepsis, particularly given abdominal distention.  Also may
   be volume o/l resulting in intraventricular dependence.   Remains
   vasopressor dependent today but on stable dose today.  We remain
   concerned because her lactate has trended up despite dopamine
   stability, although await  repeat today.  We remained concerned for
   ischemic bowel.
   -f/u lactate
   -f/u cvo2
   -broad spectrum abx coverage for possible sepsis incl MRSA, VRE, and
   pseudomonas.  Primary concern though would be enteric organisms.
   -check cortisol level.
   -cont dopamine for vasopressor support, titrated to MAP>55.
   -plan to add vasopressin
   -linezolid/meropenem/flagyl
   -consider PA  line to
   2. Respiratory Failure
 FiO2 at 60% and low P/F ratio concerning that
   patient may be developing ARDS. Now on low tidal volume ventilation.
   -attempt to wean FiO as tolerated
   -Inc PEEP given body habitus.
   3.  ARF - ? Hypovolemia vs HRS.
   -urine lytes
   -renal consult
   3. Abdominal distention/ileus
CT w/o evidence of bowel obstruction or
   ischemia.
   -d/c fentanyl
   -trial of methylnaltrexone
   -d/c lactulose, rifaxamin
   -f/u bladder pressures
   -f/u GI output
   4. DIC - ? [**12-24**] sepsis, as considered above.  Verified on peripheral
   smear above.
   -Support, f/u fibrinogen (>100), coags (INR<2.0), HCT 25
   5. Epistaxis -? If posterior.  [**Month (only) 60**] need further packing as continues to
   ooze.  Appreciate ENT evaluation.
   -consult heme.
   6.  Hypernatremia
 free water bolus down OGT
   7. Cirrhosis/hepatic failure
 remains transplant candidate, as long as
   sepsis not primary etiology.
   ICU Care
   Nutrition: Awaiting evidence of GI motility
   Glycemic Control:
   Lines / Intubation:
   Cordis/Introducer - [**2137-10-18**] 11:53 AM
   Triple lumen CVL
   Comments:
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   I was physically present with the housestaff team on this date for
   discussion of the above history, physical, data, assessment and plan
   with which I agree.  I would add the following comments.
   Patient is a 56 yo female admitted with [**Year (4 digits) 1054**], hepatic failure, GI
   bleed and significant epistaxis.  This is complicated by significant
   pulmonary hypertension presumable porto-pulmonary hypertension.  She
   has had ongoing transfusion requirements.
   EXAM-
   -Patient with decreased breath sounds noted bilaterally
   A/P-To be addressed by problems
   1)Coagulopathy-
   -ongoing platelet and factor replacement with support per hemotology as
   relates to DIC
   2)Renal Failure-
   -CVVH started today
   -Likely hepatorenal with component of pre-renal contributing
   3)[**Year (4 digits) **]-[**Month (only) 60**] well be sepsis in combination with PAH and blood loss
   leading to persistent [**Month (only) 1054**] with lactate at 5-6
   -Broad spectrum antibiotics
   -Concern for gut ischemia has been raised but CT abdomen without
   obstruction or ischemia
   4)Respiratory Failure-
   _Will continue with A/C support
   Additional issues to be addressed as defined in the housestaff note
   above.
   Critical Care Time-33 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 983**] [**Last Name (NamePattern1) 984**], MD
   on:[**2137-10-20**] 17:31 ------

2137-10-21 10:17:00 Physician Attending Progress Note
24 Hour Events:
   Increasing pressor requirement, worsening lactate.
   S/p packing of nares by ENT
   Required FFP x 7 units, PRBC x 1 unit
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Linezolid - [**2137-10-21**] 12:00 AM
   Metronidazole - [**2137-10-21**] 04:00 AM
   Meropenem - [**2137-10-21**] 05:48 AM
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.3 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-10-20**] 08:00 PM
   Dextrose 50% - [**2137-10-21**] 09:38 AM
   Other medications:
   Vitamin K
   Lactulose
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2137-10-21**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 125 (107 - 133) bpm
   BP: 104/51(70) {76/40(53) - 110/51(71)} mmHg
   RR: 22 (0 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.4 kg (admission): 80 kg
   Height: 64 Inch
   CVP: 23 (10 - 27)mmHg
   CO/CI (Fick): (19 L/min) / (10.3 L/min/m2)
   Bladder pressure: 21 (16 - 21) mmHg
   Mixed Venous O2% Sat: 89 - 89
                                Total In:
                                                                  9,055 mL
                                                                  2,787 mL
   PO:
                                TF:
   IVF:
                                                                  5,161 mL
                                                                  1,996 mL
   Blood products:
                                                                  3,444 mL
                                                                    586 mL
   Total out:
                                                                  6,019 mL
                                                                  2,943 mL
   Urine:
                                                                     12 mL
   NG:
                                                                  1,400 mL
                                                                    850 mL
   Stool:
   Drains:
   Balance:
                                                                  3,036 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 28 cmH2O
   Compliance: 18.9 cmH2O/mL
   SpO2: 94%
   ABG: 7.28/41/82.[**Numeric Identifier 96**]/19/-6
   Ve: 11.7 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Gen: intubated/sedated/somnolent, RASS -4
   Chest: Clear anterior and lateral fields
   CV:  regular/tachy, no murmur/rub
   Abd: tense, distended, tympanic
   Ext: anasarca
   Labs / Radiology
   9.4 g/dL
   73 K/uL
   56 mg/dL
   2.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   25 mg/dL
   99 mEq/L
   138 mEq/L
   23.6 %
   9.1 K/uL
        [image002.jpg]
                            [**2137-10-20**]  09:11 PM
                            [**2137-10-20**]  09:14 PM
                            [**2137-10-20**]  09:22 PM
                            [**2137-10-21**]  01:18 AM
                            [**2137-10-21**]  01:24 AM
                            [**2137-10-21**]  03:53 AM
                            [**2137-10-21**]  04:12 AM
                            [**2137-10-21**]  04:37 AM
                            [**2137-10-21**]  08:50 AM
                            [**2137-10-21**]  09:02 AM
   WBC
   9.1
   Hct
   23.5
   25.6
   25.6
   23.6
   Plt
   80
   74
   73
   Cr
   3.0
   2.4
   TCO2
   22
   21
   21
   21
   20
   Glucose
   81
   71
   56
   Other labs: PT / PTT / INR:22.2/47.4/1.9, CK / CKMB /
   Troponin-T:798//0.24, ALT / AST:314/718, Alk Phos / T Bili:199/29.2,
   Fibrinogen:102 mg/dL, Lactic Acid:9.7 mmol/L, Albumin:3.8 g/dL, LDH:675
   IU/L, Ca++:11.2 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   56yoF with cirrhosis and liver failure on transplant list; in ICU with
   renal failure, shock, bleeding and coagulopathy.
 Shock: Multifactorial shock, considerations are sepsis, continued
   bleeding, vasodilation of liver disease.
   -          Add vasopressin, wean dopamine as tolerated
   -          PRBC x 2 units, judge volume responsiveness
   -          Paracentesis today for source, also plan to remove fluid
   given elevated bladder pressure, increasing lactate. SPA to follow.
   -          Add micafungin given shock and risk for fungal infection
   -          Continue broad abx: linezolid, meropenem, flagyl
 Cirrhosis/Coagulopathy:
   - Transfuse cryo, FFP, platelets, vit K
   - Lactulose
   - Active on transplant list
 Respiratory Failure: hypoxemic and encephalopathic
   -          Low tidal volume, though no evidence of ARDS based on
   imaging
   -          Given increased abdominal pressure, would increase PEEP and
   attempt to decrease FiO2
 Renal:  ATN possible HRS
   - CVVH, aim for TBB even if BP will tolerate in setting of CVP 20
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Hypoglycemic with sepsis and liver disease. If
   persists will require glucose source
   Lines:
   Multi Lumen - [**2137-10-18**] 09:00 AM
   Cordis/Introducer - [**2137-10-18**] 11:53 AM
   Arterial Line - [**2137-10-18**] 04:00 PM
   Dialysis Catheter - [**2137-10-19**] 02:00 PM
   Prophylaxis:
   DVT:  no use of heparin with bleeding; TEDS/Boots
   Stress ulcer:  PPI
   VAP:  HOB/peridex/mouth care
   Communication:  Discuss with family
   Code status: Full code
   Disposition :  Critically ill, remains in ICU
   Total time spent:  45 min; patient is critically ill